2151-03-04 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CTA of the Abdomen showed pancolitis concerning for c diff, multiple
   small (1cm) hypodensities in the liver concerning for abscesses,
   bibasilar atelectasis.
   - Started PO flagyl for possible C diff
   - Bowel prep for colonoscopy in the AM
   - Hct drop from 30 to 26.7, recheck was increased to 27
   - UOP dropping, gave 500cc NS bolus
 URINE CULTURE - At [**2151-3-3**] 08:00 AM
 INVASIVE VENTILATION - START [**2151-3-3**] 10:10 AM
 ARTERIAL LINE - START [**2151-3-3**] 10:12 AM
 BLOOD CULTURED - At [**2151-3-3**] 11:50 AM
 TRAUMA LINE - START [**2151-3-3**] 12:12 PM
 WOUND CULTURE - At [**2151-3-3**] 03:59 PM
   JP drain fluid.
   Allergies:
   Linezolid
   lactic acidosis
   Last dose of Antibiotics:
   Daptomycin - [**2151-3-3**] 11:49 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-3-4**] 12:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-3-3**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-4**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.5
   HR: 93 (93 - 107) bpm
   BP: 106/42(62) {93/38(57) - 140/86(90)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 16 (12 - 17)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  8,082 mL
                                                                  4,376 mL
   PO:
   TF:
   IVF:
                                                                  3,955 mL
                                                                  1,516 mL
   Blood products:
                                                                  2,767 mL
   Total out:
                                                                  1,461 mL
                                                                  1,090 mL
   Urine:
                                                                    431 mL
                                                                     90 mL
   NG:
   Stool:
                                                                    400 mL
                                                                    800 mL
   Drains:
                                                                    110 mL
                                                                    200 mL
   Balance:
                                                                  6,621 mL
                                                                  3,286 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 491 (463 - 616) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 97%
   ABG: 7.26/34/177/16/-10
   Ve: 9.7 L/min
   PaO2 / FiO2: 443
   Physical Examination
   General: Intubated and sedated, jaundiced
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  firm, distended, RUQ incision, perc. Drain on right side
   Ext: Warm, 2+ edema
   Labs / Radiology
   52 K/uL
   10.3 g/dL
   82 mg/dL
   2.0 mg/dL
   16 mEq/L
   3.8 mEq/L
   96 mg/dL
   112 mEq/L
   152 mEq/L
   27.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2151-3-3**]  02:15 PM
                             [**2151-3-3**]  04:52 PM
                             [**2151-3-3**]  05:05 PM
                             [**2151-3-3**]  07:26 PM
                             [**2151-3-3**]  07:39 PM
                             [**2151-3-3**]  10:03 PM
                             [**2151-3-3**]  10:20 PM
                             [**2151-3-4**]  02:00 AM
                             [**2151-3-4**]  05:47 AM
                             [**2151-3-4**]  06:03 AM
   WBC
   11.8
   11.5
   Hct
   31
   31.0
   30
   26.7
   27.3
   27.4
   27.7
   Plt
   53
   52
   Cr
   2.0
   TCO2
   14
   15
   16
   17
   16
   Glucose
   109
   95
   82
   Other labs: PT / PTT / INR:22.5/44.9/2.2, CK / CKMB / Troponin-T:187//,
   ALT / AST:55/75, Alk Phos / T Bili:50/51.0, Differential-Neuts:80.2 %,
   Band:0.0 %, Lymph:13.2 %, Mono:6.1 %, Eos:0.3 %, D-dimer:5013 ng/mL,
   Fibrinogen:135 mg/dL, Lactic Acid:13.8 mmol/L, Albumin:4.0 g/dL,
   LDH:209 IU/L, Ca++:11.1 mg/dL, Mg++:4.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 44 yo M with past history of IVDU, ESLD
   [**3-8**] Hep C/cirrhosis with recent open CCY complicated by VRE perihepatic
   fluid collection, admitted with lethargy, jaundice and abdominal pain.
   Found to have persistent perihepatic fluid collection in setting of
   medication noncompliance and not taking linezolid. Now, he has profound
   metabolic/lactic acidosis
   .
   # Acidosis: This is mostly lactic acidosis with inadequate respiratory
   compensation based on Winter's. Lactic acidosis most likely source is
   intraabdominal infection given recent abd infections, drain, and pain
   on exam; however, no clear source has been identified.
   Bacteremia/sepsis less likely given negative blood cultures. UCx
   negative. TTE poor quality study, but no obvious vegetations. Of note,
   linezolid can also cause high lactate and may be a cause. CT shows C
   diff colitis and hepatic abscesses
   - discontinue bicarb today
   - Change propofol to versed and fentanyl bolus sedation as propofol can
   contribute to acidosis
   - Administer IV thiamine as beri beri can cause elevated lactate
   - Repeat ECHO as murmur is very prominent today to eval for interval
   change
   - change antibiotics to Daptomycin, IV flagyl, PO vancomycin and
   Meropenem
   - consider change linesozlid to daptomycin given thrombodytopenia and
   question of cause of lactate acidosis
   - trend lactate/ABG every 4 hours
   .
   # Altered Mental status: infection, hepatic enceph, uremia
   - on lactulose
   - will continue to address underlying causes
   .
   # Anemia/GIB. Baseline 27-30. No EGD reports in OMR, but per GI notes,
   EGD from [**2151**]8 did not show varices. Concern for GIB given sharp
   drop, eg. gastrophaty, vs. new varices. Patient with chronic anemia at
   baseline so hemolysis less concerning and most of bili is direct,
   however difficult to assess given liver failure. [**3-3**] AM has large
   volume lower GIB as noted in history.
   - transfuse HCT<25
   - Guiac all stools
   - IV PPI [**Hospital1 7**] for concerning bleed.
   - d/w GI for scope now that intubated
   - Q 4 hour HCT
   .
   # Thrombocytopenia: Liver dz vs meds (linezolid)
   - continue to trend
   - transfuse for plts<20 or bleeding
   .
   # elevated INR: may be from liver dz, DIC, received a total of 4 uPRBC,
   4 u FFP, cyroprecipate yesterday
   -Blood products as needed
   .
   # ARF. Cre 1.2 (baseline 0.8) Has been getting PRBCs and albumin today.
   Na < 10 in urine. Possibly pre-renal given suspected sepsis, but also
   pt. hyperdynamic on exam, and does not resond to fluids challenge, thus
   concern for hepatorenal. U/A unremarkable, has slight hydronephrosis on
   CT [**2-13**]. CT w/ mild hydronephrosis.
   - Monitor Cr daily.
   - continue midrodrine
   - Follow up on liver recs and consider octreotide
   - Will check urine lytes, then get 1 L bolus NS, followed by monitoring
   UOP and rechecking lytes
   - Consult renal regarding possible CVVH
   .
   # Hypercalcemia. etiology unclear, Alb normalized after infusions. Has
   no hx of hypercalcemia per labs in OMR. Pt. not on Vit D. DDx includes
   malignancy, hyperparathyroidism, hyperthyproid. Pt. not on diuretics.
   - f/u PTH level
   - Free Ca level-trending down
   .
   # Hep C Cirrhosis: holding home fursemide and atenolol in setting of
   infection, may restart when improves. MELD 35 today, on transplant
   list.
   - holding home cholestyramine for itching.
   - restart lactulose and rifaximin when able
   - Continue midodrine
   .
   # Hypernatremia: suspect hypovolemic hypernatremia due to insensible
   losses from infection. Also, he has been receiving albumin which is
   high Na load
   -          will monitor and when more stable would address free water
   replacement as above
   -          continue q 8 hour lytes
   .
   # Hypothyroidism: cont home levothyroxine
   - check TSH
   .
   # Hx Heroine use: cont home methadone, hold home oxycodone in setting
   of encephalopathy
   - hold methadone for now
   .
   # FEN: NPO for now, consider TPN in AM
   - IVF bolus as above
   .
   # Access: PIV, RIJ, A-line
   .
   # PPx: None
   .
   # Code: FULL
   .
   # Dispo: pending clinical improvement
   .
   # Comm: With patient and wife.
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, OTHER
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTHERMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-3-3**] 08:21 AM
   Arterial Line - [**2151-3-3**] 10:12 AM
   Trauma line - [**2151-3-3**] 12:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-03-04 10:35:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2151-3-3**] 08:00 AM
 INVASIVE VENTILATION - START [**2151-3-3**] 10:10 AM
 ARTERIAL LINE - START [**2151-3-3**] 10:12 AM
 BLOOD CULTURED - At [**2151-3-3**] 11:50 AM
 TRAUMA LINE - START [**2151-3-3**] 12:12 PM
 WOUND CULTURE - At [**2151-3-3**] 03:59 PM
   JP drain fluid.
   No further major clinical GI bleeding but some epistaxis
   CT showed pancolitis --> started on Flagyl
   Prepped for colonsocopy
   CT also also showed "small hypodensities in the liver measuring between
   7 and 17 mm are concerning
   for hepatic abscesses."
   UOP has trended down
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Linezolid
   lactic acidosis
   Last dose of Antibiotics:
   Daptomycin - [**2151-3-3**] 11:49 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-3-4**] 08:23 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-3-3**] 11:00 AM
   Other medications:
   rifaxamin, zosyn, midodrine, synthroid, lactulose, cholestyramine, PPI,
   daptomycin, propofol, CHG, Flagyl, bicarb @ 150
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-4**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.4
C (95.8
   HR: 94 (93 - 107) bpm
   BP: 108/37(59) {93/37(57) - 140/86(90)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (11 - 17)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  8,082 mL
                                                                  5,440 mL
   PO:
   TF:
   IVF:
                                                                  3,955 mL
                                                                  2,180 mL
   Blood products:
                                                                  2,767 mL
   Total out:
                                                                  1,461 mL
                                                                  1,202 mL
   Urine:
                                                                    431 mL
                                                                    102 mL
   NG:
   Stool:
                                                                    400 mL
                                                                    800 mL
   Drains:
                                                                    110 mL
                                                                    300 mL
   Balance:
                                                                  6,621 mL
                                                                  4,238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 682 (463 - 682) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 97%
   ABG: 7.26/34/177/15/-10
   Ve: 11.5 L/min
   PaO2 / FiO2: 443
   Physical Examination
   Sedated, jaundiced man.
   Epistaxis seems to have stopped
   Clear systolic murmur with some ?diastolic componet
   Abdomen is distended but not tense. Drain intact.  Staples intact
   Marked edema
   Labs / Radiology
   10.3 g/dL
   52 K/uL
   82 mg/dL
   2.0 mg/dL
   15 mEq/L
   3.4 mEq/L
   98 mg/dL
   108 mEq/L
   151 mEq/L
   27.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2151-3-3**]  02:15 PM
                             [**2151-3-3**]  04:52 PM
                             [**2151-3-3**]  05:05 PM
                             [**2151-3-3**]  07:26 PM
                             [**2151-3-3**]  07:39 PM
                             [**2151-3-3**]  10:03 PM
                             [**2151-3-3**]  10:20 PM
                             [**2151-3-4**]  02:00 AM
                             [**2151-3-4**]  05:47 AM
                             [**2151-3-4**]  06:03 AM
   WBC
   11.8
   11.5
   Hct
   31
   31.0
   30
   26.7
   27.3
   27.4
   27.7
   Plt
   53
   52
   Cr
   2.0
   2.0
   TCO2
   14
   15
   16
   17
   16
   Glucose
   109
   95
   82
   82
   Other labs: PT / PTT / INR:25.3/47.2/2.5, CK / CKMB / Troponin-T:187//,
   ALT / AST:63/89, Alk Phos / T Bili:47/48.5, Differential-Neuts:80.2 %,
   Band:0.0 %, Lymph:13.2 %, Mono:6.1 %, Eos:0.3 %, D-dimer:5013 ng/mL,
   Fibrinogen:134 mg/dL, Lactic Acid:13.8 mmol/L, Albumin:3.7 g/dL,
   LDH:204 IU/L, Ca++:10.9 mg/dL, Mg++:3.9 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   44-year-old man with
          Profound lactic acidosis
          Acute renal failure
          Respiratory failure
          Acute-on-chronic liver failure
          GI bleed
          Cardiac murmur
          Hypernatremia, hypercalcemia
   For acidosis: add thiamine.  Doesn
t appear to be markedly hypoperfused
   at present, so suspect that some of this is poor clearance and possibly
   mitochondrial issues.  Hold bicarb since no outcome evidence favors
   this at this point, but follow q4h pHs.  Swap propofol to other
   sedatives, though doubt propofol infusion syndrome.
   Current ABX per ID:  meropenem, oral vanco, oral Flagyl, rifaxamin,
   daptomycin.  Discuss with ID about potential coverage for VAP and wait
   for gram stain/culture.  If any GPCs on sputum
 add IV vanco.
   For acute renal failure:  check urine lytes.  Bladder pressure is 17.
   CT from yesterday does not show hydro.  Discuss octreotide/midodrine
   with liver.  Volume challenge with pre/post urine lytes.  Renal consult
   if unclear.
   For murmur: repeat echo today.  Avoid TEE because of varices.
   For respiratory failure:  leave intubated while other issues ongoing.
   For GI bleed: discuss with GI regarding utility of endoscopy.  For now,
   serial Hcts, clinical observations, etc.
   For hypernatremia:  volume challenge since he may be dry.  If unclear,
   further evaluation
   Discussed with patient
s wife at bedside.  All questions answered.
   Other issues per ICU team note.
   ICU Care
   Nutrition: defer until colonoscopy issue settled
   Glycemic Control:  avoid hypoglycemia
   Lines:
   20 Gauge - [**2151-3-3**] 08:21 AM
   Arterial Line - [**2151-3-3**] 10:12 AM
   Trauma line - [**2151-3-3**] 12:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2151-03-05 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Surgery-not going to take to OR
   -GI-not going to scope
   -Renal-IVF, follow bladder pressures
   -Started on D5 1/2 NS for low blood sugars and hyponatremia
   -ECHO: hyperdynamic CO 12 L/min. No vegetations seen. Hyperdynamic
   systolic function, consistent with low systemic vascular resistance.
   Compared with the prior study (images reviewed) of [**2151-3-4**], the
   findings are similar.
   -Started on LEVO for hypotension, increasing requirements over day
   -Acidosis persistently worse
   -Remains full code, though discussion with family regarding prognosis
   was had today
   -Had bleeding from mouth, nose and bloody stool overnight-given 30
   desmopressin, 1 Unit FFP, 1U pRBC
   -Started vasopressin for increasing levo and MAP < 65
   -Low grade temp overnight, given tylenol
   -Persistently hypoglycemic requiring 3 AMP D50, started D10 at
   100cc/hour for 1 L
   Allergies:
   Linezolid
   lactic acidosis
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2151-3-4**] 08:23 AM
   Daptomycin - [**2151-3-4**] 01:31 PM
   Meropenem - [**2151-3-4**] 10:00 PM
   Metronidazole - [**2151-3-4**] 10:51 PM
   Vancomycin - [**2151-3-5**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2151-3-5**] 02:00 AM
   Fentanyl - [**2151-3-5**] 03:01 AM
   Midazolam (Versed) - [**2151-3-5**] 03:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-5**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 122 (90 - 124) bpm
   BP: 108/47(66) {96/33(53) - 119/50(69)} mmHg
   RR: 26 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 15 (11 - 16)mmHg
   Total In:
                                                                  8,496 mL
                                                                  2,051 mL
   PO:
   TF:
   IVF:
                                                                  4,683 mL
                                                                  1,472 mL
   Blood products:
                                                                     88 mL
                                                                    529 mL
   Total out:
                                                                  3,147 mL
                                                                    805 mL
   Urine:
                                                                    167 mL
                                                                      5 mL
   NG:
                                                                    180 mL
                                                                    300 mL
   Stool:
                                                                    800 mL
   Drains:
                                                                    450 mL
   Balance:
                                                                  5,349 mL
                                                                  1,246 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 664 (443 - 700) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.17/27/126/10/-17
   Ve: 16.9 L/min
   PaO2 / FiO2: 315
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   45 K/uL
   11.1 g/dL
   81 mg/dL
   3.0 mg/dL
   10 mEq/L
   3.6 mEq/L
   99 mg/dL
   105 mEq/L
   152 mEq/L
   30.0 %
   10.9 K/uL
        [image002.jpg]
                             [**2151-3-4**]  01:17 PM
                             [**2151-3-4**]  02:12 PM
                             [**2151-3-4**]  05:41 PM
                             [**2151-3-4**]  05:56 PM
                             [**2151-3-4**]  08:18 PM
                             [**2151-3-4**]  09:05 PM
                             [**2151-3-4**]  11:31 PM
                             [**2151-3-4**]  11:45 PM
                             [**2151-3-5**]  03:18 AM
                             [**2151-3-5**]  03:38 AM
   WBC
   10.9
   Hct
   29.0
   29.0
   29.5
   28.1
   30.0
   Plt
   48
   45
   Cr
   3.0
   3.0
   3.0
   TCO2
   12
   12
   12
   12
   10
   Glucose
   54
   51
   81
   Other labs: PT / PTT / INR:29.9/45.3/3.0, CK / CKMB / Troponin-T:187//,
   ALT / AST:231/506, Alk Phos / T Bili:58/47.3, Differential-Neuts:80.2
   %, Band:0.0 %, Lymph:13.2 %, Mono:6.1 %, Eos:0.3 %, D-dimer:5013 ng/mL,
   Fibrinogen:134 mg/dL, Lactic Acid:12.6 mmol/L, Albumin:3.9 g/dL,
   LDH:204 IU/L, Ca++:10.5 mg/dL, Mg++:3.9 mg/dL, PO4:7.4 mg/dL
   Imaging: Echo [**3-4**]:
   IMPRESSION: No vegetations seen. Hyperdynamic systolic function,
   consistent with low systemic vascular resistance.
   Microbiology: [**2151-3-4**] 8:34 am SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2151-3-4**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-3-3**] 08:21 AM
   Arterial Line - [**2151-3-3**] 10:12 AM
   Trauma line - [**2151-3-3**] 12:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-03-05 08:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Surgery-not going to take to OR
   -GI-not going to scope
   -Renal-IVF, follow bladder pressures
   -Started on D5 1/2 NS for low blood sugars and hyponatremia
   -ECHO: hyperdynamic CO 12 L/min. No vegetations seen. Hyperdynamic
   systolic function, consistent with low systemic vascular resistance.
   Compared with the prior study (images reviewed) of [**2151-3-4**], the
   findings are similar.
   -Started on LEVO for hypotension, increasing requirements over day
   -Acidosis persistently worse
   -Remains full code, though discussion with family regarding prognosis
   was had today
   -Had bleeding from mouth, nose and bloody stool overnight-given 30
   desmopressin, 1 Unit FFP, 1U pRBC
   -Started vasopressin for increasing levo and MAP < 65
   -Low grade temp overnight, given tylenol
   -Persistently hypoglycemic requiring 3 AMP D50, started D10 at
   100cc/hour for 1 L
   Allergies:
   Linezolid
   lactic acidosis
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2151-3-4**] 08:23 AM
   Daptomycin - [**2151-3-4**] 01:31 PM
   Meropenem - [**2151-3-4**] 10:00 PM
   Metronidazole - [**2151-3-4**] 10:51 PM
   Vancomycin - [**2151-3-5**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2151-3-5**] 02:00 AM
   Fentanyl - [**2151-3-5**] 03:01 AM
   Midazolam (Versed) - [**2151-3-5**] 03:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-5**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 122 (90 - 124) bpm
   BP: 108/47(66) {96/33(53) - 119/50(69)} mmHg
   RR: 26 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 15 (11 - 16)mmHg
   Total In:
                                                                  8,496 mL
                                                                  2,051 mL
   PO:
   TF:
   IVF:
                                                                  4,683 mL
                                                                  1,472 mL
   Blood products:
                                                                     88 mL
                                                                    529 mL
   Total out:
                                                                  3,147 mL
                                                                    805 mL
   Urine:
                                                                    167 mL
                                                                      5 mL
   NG:
                                                                    180 mL
                                                                    300 mL
   Stool:
                                                                    800 mL
   Drains:
                                                                    450 mL
   Balance:
                                                                  5,349 mL
                                                                  1,246 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 664 (443 - 700) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.17/27/126/10/-17
   Ve: 16.9 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General: Intubated and sedated, jaundiced
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  firm, distended, RUQ incision, perc. Drain on right side
   Ext: Warm, 2+ edema
   Labs / Radiology
   45 K/uL
   11.1 g/dL
   81 mg/dL
   3.0 mg/dL
   10 mEq/L
   3.6 mEq/L
   99 mg/dL
   105 mEq/L
   152 mEq/L
   30.0 %
   10.9 K/uL
        [image002.jpg]
                             [**2151-3-4**]  01:17 PM
                             [**2151-3-4**]  02:12 PM
                             [**2151-3-4**]  05:41 PM
                             [**2151-3-4**]  05:56 PM
                             [**2151-3-4**]  08:18 PM
                             [**2151-3-4**]  09:05 PM
                             [**2151-3-4**]  11:31 PM
                             [**2151-3-4**]  11:45 PM
                             [**2151-3-5**]  03:18 AM
                             [**2151-3-5**]  03:38 AM
   WBC
   10.9
   Hct
   29.0
   29.0
   29.5
   28.1
   30.0
   Plt
   48
   45
   Cr
   3.0
   3.0
   3.0
   TCO2
   12
   12
   12
   12
   10
   Glucose
   54
   51
   81
   Other labs: PT / PTT / INR:29.9/45.3/3.0, CK / CKMB / Troponin-T:187//,
   ALT / AST:231/506, Alk Phos / T Bili:58/47.3, Differential-Neuts:80.2
   %, Band:0.0 %, Lymph:13.2 %, Mono:6.1 %, Eos:0.3 %, D-dimer:5013 ng/mL,
   Fibrinogen:134 mg/dL, Lactic Acid:12.6 mmol/L, Albumin:3.9 g/dL,
   LDH:204 IU/L, Ca++:10.5 mg/dL, Mg++:3.9 mg/dL, PO4:7.4 mg/dL
   Imaging: Echo [**3-4**]:
   IMPRESSION: No vegetations seen. Hyperdynamic systolic function,
   consistent with low systemic vascular resistance.
   Microbiology: [**2151-3-4**] 8:34 am SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2151-3-4**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE
   Assessment and Plan
   This is a 44 yo M with past history of IVDU, ESLD [**3-8**] Hep C/cirrhosis
   with recent open CCY complicated by VRE perihepatic fluid collection,
   admitted with lethargy, jaundice and abdominal pain. Found to have
   persistent perihepatic fluid collection in setting of medication
   noncompliance and not taking linezolid. Now, he has profound
   metabolic/lactic acidosis.
   A family meeting was held today in which the patient was made DNR/DNrI
   and ultimately CMO once his family could all make it in and say their
   goodbyes.
   # Acidosis: This is mostly lactic acidosis with inadequate respiratory
   compensation based on Winter's. Lactic acidosis most likely source is
   intraabdominal infection given recent abd infections, drain, and pain
   on exam; however, no clear source has been identified.
   Bacteremia/sepsis less likely given negative blood cultures. UCx
   negative. TTE poor quality study, but no obvious vegetations. Of note,
   linezolid can also cause high lactate and may be a cause. CT shows C
   diff colitis and hepatic abscesses
   - discontinue bicarb today
   - Change propofol to versed and fentanyl bolus sedation as propofol can
   contribute to acidosis
   - Administer IV thiamine as beri beri can cause elevated lactate
   - Repeat ECHO as murmur is very prominent today to eval for interval
   change
   - change antibiotics to Daptomycin, IV flagyl, PO vancomycin and
   Meropenem
   - consider change linesozlid to daptomycin given thrombodytopenia and
   question of cause of lactate acidosis
   - trend lactate/ABG every 4 hours
   # Altered Mental status: infection, hepatic enceph, uremia
   - on lactulose
   - will continue to address underlying causes
   # Anemia/GIB. Baseline 27-30. No EGD reports in OMR, but per GI notes,
   EGD from [**2151**]8 did not show varices. Concern for GIB given sharp
   drop, eg. gastrophaty, vs. new varices. Patient with chronic anemia at
   baseline so hemolysis less concerning and most of bili is direct,
   however difficult to assess given liver failure. [**3-3**] AM has large
   volume lower GIB as noted in history.
   - transfuse HCT<25
   - Guiac all stools
   - IV PPI [**Hospital1 7**] for concerning bleed.
   - d/w GI for scope now that intubated
   - Q 4 hour HCT
   # Thrombocytopenia: Liver dz vs meds (linezolid)
   - continue to trend
   - transfuse for plts<20 or bleeding
   # elevated INR: may be from liver dz, DIC, received a total of 4 uPRBC,
   4 u FFP, cyroprecipate yesterday
   -Blood products as needed
   # ARF. Cre 1.2 (baseline 0.8) Has been getting PRBCs and albumin today.
   Na < 10 in urine. Possibly pre-renal given suspected sepsis, but also
   pt. hyperdynamic on exam, and does not resond to fluids challenge, thus
   concern for hepatorenal. U/A unremarkable, has slight hydronephrosis on
   CT [**2-13**]. CT w/ mild hydronephrosis.
   - Monitor Cr daily.
   - continue midrodrine
   - Follow up on liver recs and consider octreotide
   - Will check urine lytes, then get 1 L bolus NS, followed by monitoring
   UOP and rechecking lytes
   - Consult renal regarding possible CVVH
   # Hypercalcemia. etiology unclear, Alb normalized after infusions. Has
   no hx of hypercalcemia per labs in OMR. Pt. not on Vit D. DDx includes
   malignancy, hyperparathyroidism, hyperthyproid. Pt. not on diuretics.
   - f/u PTH level
   - Free Ca level-trending down
   # Hep C Cirrhosis: holding home fursemide and atenolol in setting of
   infection, may restart when improves. MELD 35 today, on transplant
   list.
   - holding home cholestyramine for itching.
   - restart lactulose and rifaximin when able
   - Continue midodrine
   # Hypernatremia: suspect hypovolemic hypernatremia due to insensible
   losses from infection. Also, he has been receiving albumin which is
   high Na load
   -          will monitor and when more stable would address free water
   replacement as above
   -          continue q 8 hour lytes
   # Hypothyroidism: cont home levothyroxine
   - check TSH
   # Hx Heroine use: cont home methadone, hold home oxycodone in setting
   of encephalopathy
   - hold methadone for now
   # FEN: NPO for now, consider TPN in AM
   - IVF bolus as above
   # Access: PIV, RIJ, A-line
   # PPx: None
   # Code: DNR/DNrI, CMO per Family meeting today
   # Dispo: pending clinical improvement
   # Comm: With patient and wife.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-3-3**] 08:21 AM
   Arterial Line - [**2151-3-3**] 10:12 AM
   Trauma line - [**2151-3-3**] 12:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: